US05814648
To a solution of 1-(tert-butyldimethylsilyloxy)-2-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)phenoxy]ethane (4.4 g, 11 mmol) in THF (35 ml) was added dropwise tetrabutylammonium fluoride (1M in THF, 14 ml). The reaction mixture was stirred at room temperature for 45 min., solvent removed by evaporation and the resulting residue was purified by column chromatography on silica gel eluting with ethyl acetate/n-hexane (=1:2) to afford 2-[3-(4,5-dihydro-4(R)-phenyl-oxazol-2-yl)phenoxy]ethan-1-ol (2.8 g, 91%) as a colorless oil.

reactant | 1-(tert-butyldimethylsilyloxy)-2-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)phenoxy]ethane | 11 mmol, 4.4 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC(=CC=C1)C=1OC[C@H](N1)C1=CC=CC=C1 | C23H31NO3Si
reactant | tetrabutylammonium fluoride | 1M, 14 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 2-[3-(4,5-dihydro-4(R)-phenyl-oxazol-2-yl)phenoxy]ethan-1-ol | 2.8 g, 91% | C1(=CC=CC=C1)[C@H]1N=C(OC1)C=1C=C(OCCO)C=CC1 | C17H17NO3
